US04418069
2-(4-Hydroxyphenyl)-1.2-benzisoselenazol-3(2H)-one 4.58 g.
of 4-aminophenol dissolved in 200 cc. of tetrahydrofurane (THF) and 2 cc. of pyridine are added with stirring and ice-cooling (temperature below 10° C.) under a nitrogen atmosphere to a solution of 3.3 g. of o-chloroselenobenzoic acid chloride in 30 cc. of THF. After termination of the addition, the mixture is stirred at room temperatur, the solvent is evaporated under vacuum and the residue is pured into a mixture of ice and dilute hydrochloric acid. The resulting precipitate is filtered off and is recrystallized from ethanol.

reactant | 4-aminophenol | NC1=CC=C(C=C1)O | C6H7NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | o-chloroselenobenzoic acid chloride | ClC1=C(C(=[Se])Cl)C=CC=C1 | C7H4Cl2Se
reactant | THF | O1CCCC1 | C4H8O
product | 2-(4-Hydroxyphenyl)-1.2-benzisoselenazol-3(2H)-one | OC1=CC=C(C=C1)N1[Se]C2=C(C1=O)C=CC=C2 | C13H9NO2Se
